US05496805
Following the procedure of Example 16, L-phenylalanine is reacted with 3-acetylthio-2-methylpropanoyl chloride to give (±)-N-[3-(acetylthio)-2-methyl-1-oxopropyl]-L-phenylalanine.

reactant | L-phenylalanine | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | 3-acetylthio-2-methylpropanoyl chloride | C(C)(=O)SCC(C(=O)Cl)C | C6H9ClO2S
product | (±)-N-[3-(acetylthio)-2-methyl-1-oxopropyl]-L-phenylalanine | C(C)(=O)SCC(C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O)C | C15H19NO4S
